US06787558B2
b) (S)-2-(Tetrahydro-pyran-2-yloxymethyl)-pyrrolidine
(S)-2-(Tetrahydro-pyran-2-yloxymethyl)-pyrrolidine-1-carboxylic acid benzyl ester (445 mg, 1.39 mmol) was dissolved in ethanol (9 mL) and hydrogenated at atmospheric pressure and room temperature in the presence of 10% paladium on charcoal (10 mg). After 16 h the reaction mixture was passed through a filter aid and evaporated to afford the title compound which was used without further purification (255 mg, 99%). Black liquid, ISP-MS: m/e=186.3 ([M+H]+).

reactant | (S)-2-(Tetrahydro-pyran-2-yloxymethyl)-pyrrolidine-1-carboxylic acid benzyl ester | 1.39 mmol, 445 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)COC1OCCCC1 | C18H25NO4
solvent | ethanol | 9 mL | C(C)O | C2H6O
product | (S)-2-(Tetrahydro-pyran-2-yloxymethyl)-pyrrolidine | O1C(CCCC1)OC[C@H]1NCCC1 | C10H19NO2
